US06451842B1
A solution of 4-(aminomethyl)-1-(4-chlorobenzyl)piperidine (50 mg, 0.21 mmol) in CH2Cl3 (1 mL) was treated with hippuric acid (38 mg, 0.21 mmol), EDCI (48 mg, 0.24 mmol), HOBt (31 mg, 0.23 mmol) and Et3N (38 μL, 0.27 mmol). The reaction mixture was stirred for 16 h at 25° C., diluted with 1 mL of CH2Cl2, washed with 2 N aqueous NaOH solution (2×0.75 mL), dried (MgSO4) and concentrated. Chromatography (SiO2, 6 to 8% CH3OH/CH3Cl2 gradient elution) afforded 4-{(N-benzoylglycyl)amino}methyl-1-(4-chlorobenzyl)piperidine (compound No. 458) which was treated with TFA to give a TFA salt (105 mg, 97%): The purity was determined by RPLC/MS (85%); ESI/MS m/e 400 (M++H, C22H26ClN3O2).

reactant | 4-(aminomethyl)-1-(4-chlorobenzyl)piperidine | 0.21 mmol, 50 mg | NCC1CCN(CC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
reactant | hippuric acid | 0.21 mmol, 38 mg | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | EDCI | 0.24 mmol, 48 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.23 mmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.27 mmol, 38 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-{(N-benzoylglycyl)amino}methyl-1-(4-chlorobenzyl)piperidine | C(C1=CC=CC=C1)(=O)NCC(=O)NCC1CCN(CC1)CC1=CC=C(C=C1)Cl | C22H26ClN3O2
